US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoyl]morpholine
Morpholine (0.030 g, 0.343 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.099 g, 0.515 mmol) were added to a methylene chloride solution (5 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoic acid (0.070 g, 0.172 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to obtain the titled compound (0.040 g, 0.0839 mmol, 49%).

reactant | Morpholine | 0.343 mmol, 0.030 g | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.515 mmol, 0.099 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoic acid | 0.172 mmol, 0.070 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC1=CC=CC=C1)C)=O | C23H20O7
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoyl]morpholine | 0.0839 mmol, 0.040 g, 49% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)OC1=CC=CC=C1)C)=O | C27H27NO7
